US08703805B2
Preparation of 2-[1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]-N-ethylacetamide
A mixture of the methyl [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]acetate (100 mg, 0.2 mmol), EtNH2 (2.0M in THF, 5 mL) and ethylamine hydrochloride (200 mg) was stirred at 70° C. in a sealed vial for 8 h. The solvent was removed in vacuo, another EtNH2/THF (2.0M, 5 mL) was added, the mixture was stirred at 78° C. for another 24 h. Another 3 mL of EtNH2/THF was added, and the mixture was stirred at 78° C. for another 20 h. The solvent was removed in vacuo, and the crude product was purified by flash chromatography (0-30% 20% MeOH/DCM) to give the title compound as a white solid (85 mg, 83%). 1HNMR (CDCl3): δ 8.04 (m, 1H), 7.84-7.82 (m, 1H), 7.74-7.71 (m, 1H), 7.60-7.46 (m, 5H), 7.21 (d, 1H), 6.78 (d, 1H), 6.61 (s, 1H), 6.45 (brs, 1H), 3.69 (s, 2H), 3.30 (q, 2H), 3.07 (s, 3H), 1.14 (t, 3H). MS(ES): 500 [M+H]+.

reactant | methyl [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]acetate | 0.2 mmol, 100 mg | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)CC(=O)OC | C23H19ClN2O4S2
reactant | EtNH2 | 2.0M, 5 mL | C(C)N | C2H7N
reactant | ethylamine hydrochloride | 200 mg | Cl.C(C)N
product | 2-[1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]-N-ethylacetamide | 85 mg, 83% | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)CC(=O)NCC | C24H22ClN3O3S2
